US07407961B2
Under ice-bath cooling, NaH (60% pure, 18 mg) was added to a suspension of 5-[5-amino-6-(hydroxymethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (100 mg) in DMF (1.0 ml). After 10 minute stirring, MeI (127 mg) was added to the mixture. After 10 minutes stirring at the same temperature, the mixture was allowed to warm to 25° C. After 3.5 hours stirring, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by column chromatography, triturated with IPE, and dried in vacuo to give 5-[5-amino-6-(methoxymethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (40 mg).

reactant | NaH | 18 mg | [H-].[Na+]
reactant | 5-[5-amino-6-(hydroxymethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1CO)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C19H20N4O2
reactant | MeI | 127 mg | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[5-amino-6-(methoxymethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 40 mg | NC=1N=C(C(=NC1COC)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C20H22N4O2
